US04029552
According to the process of my invention, pure perfluoro-n-heptane can be isolated from the cell product effluent stream from the electrochemical fluorination of n-heptane by use of a novel toluene/perfluoro-n-heptane constant boiling mixture.

reactant | perfluoro-n-heptane | FC(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C7F16
solvent | n-heptane | CCCCCCC | C7H16
product | toluene perfluoro-n-heptane | C1(=CC=CC=C1)C.FC(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | InChI=1S/C7F16.C7H8/c8-1(9,2(10,11)4(14,15)6(18,19)20)3(12,13)5(16,17)7(21,22)23;1-7-5-3-2-4-6-7/h;2-6H,1H3
